US06515179B2
A mixed solution of tetrahydrofuran (70 ml)/water (60 ml) containing (S)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid (20.51 g; also containing (R)-isomer) and sulfuric acid (10.03 g) was stirred for 1 hour under ice cooling, 1.5 hours at room temperature, and for 28 hours under heating at 45 to 48° C. On the way, 6 N hydrochloric acid (20 ml) was further added after about 20 hours. The reaction mixture was cooled with ice, and sodium carbonate (38.92 g), 2-nitrobenzenesulfonyl chloride (29.42 g), tetrahydrofuran (50 ml) and water (60 ml) were added in turn thereto, followed by stirring for 70 minutes under ice cooling and for 37 hours at room temperature. On the way, sodium carbonate (5.45 g) was further added after 30 minutes. Water (140 ml) was added to the reaction mixture, and the organic solvent was removed by evaporation under reduced pressure. Then, water (40 ml) and ethyl acetate (140 ml) were added, followed by extraction and solution separation, and the organic layer was extracted again with water (100 ml). Ethyl acetate (30 ml) and concentrated hydrochloric acid (40 ml) were added to the resulting aqueous layer, and ethyl acetate (100 ml) was further added, followed by extraction and solution separation. The aqueous layer was extracted again with ethyl acetate (120 ml). The resulting organic layer was dried over sodium sulfate, filtered, concentrated and dried under vacuum to obtain (S)-N-(2-nitrobenzenesulfonyl)azetidine-2-carboxylic acid (26.2 g; yield: 89.8%). Analysis according to high performance liquid chromatography (HPLC) resulted in 46.4% ee.

reactant | (S)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(=O)O | C9H15NO4
reactant | sulfuric acid | 10.03 g | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | 6 N, 20 ml | Cl | ClH
reactant | sodium carbonate | 38.92 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-nitrobenzenesulfonyl chloride | 29.42 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | sodium carbonate | 5.45 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | Water | 140 ml | O | H2O
solvent | water | 60 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 60 ml | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | (S)-N-(2-nitrobenzenesulfonyl)azetidine-2-carboxylic acid | 26.2 g, yield: 89.8% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1[C@@H](CC1)C(=O)O | C10H10N2O6S
